US07244730B2
Trimethyl orthoformate (20 ml), p-toluenesulfonic acid (0.5 g, 1.9 mmol) and 3A-molecular sieves (4 g) were added to a solution of 1-[3-amino-5-(tert-butyl)-4-methoxyphenyl]-1-ethanone (4 g, 19 mmol) in methanol (20 ml) and the mixture was stirred at room temperature for 13 hours. The reaction mixture was filtered through celite and the solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue, the mixture was washed with brine, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to yield 5.2 g of 3-(tert-butyl)-5-(1,1-dimethoxyethyl)-2-methoxyaniline as a crude product. Acetone (1.7 ml, 22 mmol), acetic acid (3.2 ml, 56 mmol) and 3A-molecular sieves (2 g) were added to a solution of the compound (5.2 g, 19 mmol) in methanol (6 ml) and the mixture was stirred at room temperature for 3 hours. Sodium cyanoborohydride (1.1 g, 17 mmol) was added to the reaction mixture prior to stirring at room temperature for 2 hours. Ethyl acetate was added to the reaction mixture, washing was performed with saturated sodium hydrogencarbonate water and brine in that order, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and then the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.0 g) as a light yellow oil.

reactant | Trimethyl orthoformate | 20 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid | 1.9 mmol, 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-[3-amino-5-(tert-butyl)-4-methoxyphenyl]-1-ethanone | 19 mmol, 4 g | NC=1C=C(C=C(C1OC)C(C)(C)C)C(C)=O | C13H19NO2
solvent | methanol | 20 ml | CO | CH4O
product | 3-(tert-butyl)-5-(1,1-dimethoxyethyl)-2-methoxyaniline | 5.2 g | C(C)(C)(C)C=1C(=C(N)C=C(C1)C(C)(OC)OC)OC | C15H25NO3
